US07329764B2
To a sealed tube was added the above tert-butyl ester intermediate (25.5 mg, 0.103 mmol), 6-ethoxy-2-fluoro-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzonitrile (60 mg, 0.206 mmol) and tetrakis(triphenylphosphine)palladium(0) (23.85 mg, 0.0206 mmol) in 1 mL of dimethoxyethane, followed by the addition of 0.5 mL of 20% Na2CO3. The mixture was heated at 85° C. for 4 h. LCMS showed both de-boc and boc-protected imidazole compounds formed. The reaction mixture was filtered, concentrated and the residue was purified by silica gel chromatography eluting with 2-5% MeOH/CH2Cl2. The boc-protected intermediate was not found during the column process, the de-boc intermediate was found and the fractions were collected and concentrated to afford 11 mg (46.1%) of 6-ethoxy-2-fluoro-3-(1H-imidazol-4-yl)-benzonitrile.

reactant | 6-ethoxy-2-fluoro-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzonitrile | 0.206 mmol, 60 mg | C(C)OC1=CC=C(C(=C1C#N)F)B1OC(C(O1)(C)C)(C)C | C15H19BFNO3
reactant | Na2CO3 | 0.5 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | imidazole | N1C=NC=C1 | C3H4N2
solvent | dimethoxyethane | 1 mL | C(OC)COC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.0206 mmol, 23.85 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6-ethoxy-2-fluoro-3-(1H-imidazol-4-yl)-benzonitrile | 11 mg, 46.1% | C(C)OC1=CC=C(C(=C1C#N)F)C=1N=CNC1 | C12H10FN3O
